US08283353B2
ethyl ({trans-4-[6-{[6-(2-cyanophenyl)pyridin-3-yl]methyl}-5-oxo-7-propyl[1,2,4]triazolo[1,5-a]pyrimidin-4(5H)-yl]cyclohexyl}oxy)acetate
A mixture of 2-(5-{[4-(4-{[tert-butyl(dimethyl)silyl]oxy}cyclohexyl)-5-oxo-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl]methyl}pyridin-2-yl)benzonitrile (0.42 g), tetrabutylammonium fluoride (1 M tetrahydrofuran solution, 1.1 mL) and tetrahydrofuran (20 mL) was stirred at 70° C. for 16 hr. Ethyl acetate and water were added to the reaction mixture, and the mixture was extracted with ethyl acetate. The organic layer was washed with water and then with saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure. The obtained residue was dissolved in acetonitrile (20 mL), 1,1,1-triacetoxy-1,1-dihydro-1,2-benziodoxol-3(1H)-one (0.31 g) was added, and the mixture was stirred at room temperature for 3 hr. Saturated aqueous sodium hydrogen carbonate solution and sodium thiosulfate were added to the reaction mixture, and the mixture was stirred at room temperature for 2 hr, and extracted with ethyl acetate. The organic layer was washed with saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure. The obtained residue was dissolved in tetrahydrofuran (3 mL) and methanol (3 mL), sodium borohydride (0.016 g) was added, and the mixture was stirred at room temperature for 1 hr. After evaporation of the solvent under reduced pressure, the residue was extracted with water and ethyl acetate. The obtained ethyl acetate layer was washed with saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure. To a solution (10 mL) of the obtained residue in toluene was added dropwise ethyl diazoacetate (0.14 mL) in the presence of rhodium(I) acetate (0.0012 g) at 80° C., and the mixture was stirred at the same temperature for 1 hr. The reaction mixture was concentrated, and the obtained residue was subjected to silica gel column chromatography to give the title compound as a colorless solid (0.06 g, 15%).

reactant | 2-(5-{[4-(4-{[tert-butyl(dimethyl)silyl]oxy}cyclohexyl)-5-oxo-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl]methyl}pyridin-2-yl)benzonitrile | 0.42 g | [Si](C)(C)(C(C)(C)C)OC1CCC(CC1)N1C=2N(C(=C(C1=O)CC=1C=CC(=NC1)C1=C(C#N)C=CC=C1)CCC)N=CN2 | C33H42N6O2Si
reactant | tetrabutylammonium fluoride | 1 M, 1.1 mL | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
reactant | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | ethyl ({trans-4-[6-{[6-(2-cyanophenyl)pyridin-3-yl]methyl}-5-oxo-7-propyl[1,2,4]triazolo[1,5-a]pyrimidin-4(5H)-yl]cyclohexyl}oxy)acetate | 0.06 g, 15% | C(#N)C1=C(C=CC=C1)C1=CC=C(C=N1)CC=1C(N(C=2N(C1CCC)N=CN2)[C@@H]2CC[C@H](CC2)OCC(=O)OCC)=O | C31H34N6O4
